US03932431
Under a nitrogen atmosphere, carefully reflux (bath temperature of 125° C) a mixture containing 19.4 g. of 2-pyridylbenzyl cyanide, 6.6 g. of ethylene diamine and 0.2 g. of sulphur for 5 hrs. Cool the reaction mixture and under a nitrogen atmosphere dissolve the residue in 300 ml. of benzene, and water wash, dry (over anhydrous potassium carbonate) and filter the benzene solution. Concentrate the filtrate to a small volume whereupon the product crystallizes. Filter the crystals to yield 2-[α-(2-pyridyl) benzyl]-imidazoline, m.p. 134°-136° C. The maleate salt, m.p. 132°-135°C, is prepared from maleic acid and is crystallized from isopropanol.

reactant | 2-pyridylbenzyl cyanide | N1=C(C=CC=C1)C(C1=CC=CC=C1)C#N | C13H10N2
reactant | ethylene diamine | C(CN)N | C2H8N2
reactant | sulphur | [S] | S
product | 2-[α-(2-pyridyl) benzyl]-imidazoline | N1=C(C=CC=C1)C(C1=CC=CC=C1)C=1NCCN1 | C15H15N3
